US09302989B2
N-{4-[1-(tetrahydro-2H-pyran-4-ylmethyl)piperidin-4-yl]phenyl}-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 926, substituting N-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide and tetrahydro-2H-pyran-4-carbaldehyde for isobutraldehyde. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.60 (s, 1H), 8.49 (d, J=5.0 Hz, 1H), 8.33 (s, 1H), 7.44 (m, 3H), 7.12 (m, 2H), 4.79 (m, 4H), 3.83 (m, 2H), 3.27 (m, 2H), 2.92 (m, 2H), 2.40 (m, 1H), 2.14 (d, J=7.2 Hz, 2H), 1.95 (m, 2H), 1.74 (m, 3H), 1.61 (m, 4H), 1.12 (m, 2H); MS (ESI(+)) m/e 421 (M+H).

reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H20N4O
reactant | tetrahydro-2H-pyran-4-carbaldehyde | O1CCC(CC1)C=O | C6H10O2
product | N-{4-[1-(tetrahydro-2H-pyran-4-ylmethyl)piperidin-4-yl]phenyl}-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | O1CCC(CC1)CN1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C25H32N4O2
